US07749992B2
Step 1. Preparation of N-(2-Bromo-4-trifluoromethyl-phenyl)-4-methyl-benzenesulfonamide
To a solution of 4-amino-3-bromobenzotrifluoride (20.0 g, 83.3 mmol) in pyridine at room temperature is added p-toluenesulfonyl chloride (19.8 g, 104.1 mmol) in portions over 3 minutes, and the resulting mixture stirred for 52 hours. The suspension is poured into an ice-water mix (300 ml), filtered; and the filtered solid is washed with water (250 ml). The solid is dissolved in dichloromethane (200 ml) and the resulting solution is washed with 1N HCl (2×150 ml), water (2×200 ml), dried (Na2SO4), and concentrated to a solid. The solid is suspended in ethanol (700 ml) and heated at reflux for 10 minutes, filtered while hot to remove insolubles, and the filtered solids washed with ethanol (250 ml). After concentration of the filtrate, the resulting solid is suspended in methanol (500 ml), treated with K2CO3 (2.0 g, 14.4 mmol), and the mixture is stirred at room temperature for 46 hours. After filtration of the suspension, the filtered solid is washed with methanol (150 ml), and the filtrate is concentrated to give the title compound as a foam. Mass spectrum (ES+): 394 (M+).

reactant | 4-amino-3-bromobenzotrifluoride | 83.3 mmol, 20.0 g | NC1=C(C=C(C=C1)C(F)(F)F)Br | C7H5BrF3N
reactant | p-toluenesulfonyl chloride | 104.1 mmol, 19.8 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | K2CO3 | 14.4 mmol, 2.0 g | C(=O)([O-])[O-].[K+].[K+]
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | N-(2-Bromo-4-trifluoromethyl-phenyl)-4-methyl-benzenesulfonamide | BrC1=C(C=CC(=C1)C(F)(F)F)NS(=O)(=O)C1=CC=C(C=C1)C | C14H11BrF3NO2S
